US08623902B2
At a temperature of 0° C., a solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.243 g; 1.24 mmol) in dichloromethane (5 ml) was added dropwise to a stirred solution of (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine hydrochloride (0.35 g; 1.24 mmol), which was prepared as described in example P12, and triethylamine (0.35 ml; 2.48 mmol) in dichloromethane (10 ml). The ice bath was removed and reaction mixture was allowed stirring for 3 hours. The reaction mixture was washed with 1M NaOH (10 ml), 2M HCl (10 ml) and saturated NaCl (50 ml) and then dried over Na2SO4. After removal of the solvent, the residue (0.45 g in the form of an oil) was purified by flash chromatography over silica gel (eluent:cyclohexane/ethyl acetate 2:8). 0.27 g (50% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-[(S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidin-1-yl]-methanone was obtained in form of an oil which solified after standing.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.24 mmol, 0.243 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine hydrochloride | 1.24 mmol, 0.35 g | Cl.ClC1=C(OC[C@H]2NCCC2)C(=CC(=C1)Cl)Cl
reactant | triethylamine | 2.48 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [(S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidin-1-yl]-methanone | ClC1=C(OC[C@H]2N(CCC2)C=O)C(=CC(=C1)Cl)Cl | C12H12Cl3NO2
